US08497380B2
2-(3,5-Dichloro-pyridin-4-yl)-1-(2,3,4-trimethoxy-phenyl)-ethanone from preparation 2 (1.25 g, 3.5 mmol) was dissolved in AcOH (100%, 9.25 mL) under argon. HI (55-58%, 4.55 mL) was added and the reaction mixture was heated at 80° C. for 18 hours. The reaction mixture was cooled to it and evaporated in vacuo. NaHCO3 (sat., 150 mL) was added slowly followed by NaCl (sat., 50 mL). The organic products were extracted with EtOAc (4×100 mL). The combined organic phases were washed twice with NaCl (sat, 100 mL), Na2S2O3 (10%, 100 mL), dried over Na2SO4 and evaporated in vacuo. 2-(3,5-Dichloro-pyridin-4-yl)-1-(2,3-dihydroxy-4-methoxy-phenyl)-ethanone was obtained as a brown solid. 1H NMR (CDCl3) δ=11.88 (1H, s), 8.54 (2H, s), 7.51 (1H, d), 6.60 (1H, d), 5.62 (1H, bs), 4.67 (2H, s), 4.00 (3H, s). Yield 0.935 g (81%)

reactant | 2-(3,5-Dichloro-pyridin-4-yl)-1-(2,3,4-trimethoxy-phenyl)-ethanone | ClC=1C=NC=C(C1CC(=O)C1=C(C(=C(C=C1)OC)OC)OC)Cl | C16H15Cl2NO4
reactant | HI | 4.55 mL | I | HI
solvent | AcOH | 9.25 mL | CC(=O)O | C2H4O2
product | 2-(3,5-Dichloro-pyridin-4-yl)-1-(2,3-dihydroxy-4-methoxy-phenyl)-ethanone | ClC=1C=NC=C(C1CC(=O)C1=C(C(=C(C=C1)OC)O)O)Cl | C14H11Cl2NO4
